US06251925B1
3′-Nitro-[1,1′-biphenyl]-2,4-dicarboxylic acid dimethyl ester as a tan solid (880 mg);
Electrospray MS (positive ion): (M+Na) 338; from dimethyl 4-bromoisophthalate (1.26 g), 3-nitrophenylboronic acid (795 mg) and tetrakis(triphenylphosphine)palladium(0) (167 mg).

reactant | dimethyl 4-bromoisophthalate | 1.26 g | BrC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H9BrO4
reactant | 3-nitrophenylboronic acid | 795 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
catalyst | tetrakis(triphenylphosphine)palladium(0) | 167 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Nitro-[1,1′-biphenyl]-2,4-dicarboxylic acid dimethyl ester | COC(=O)C=1C(=CC=C(C1)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13NO6
